US07589095B2
To a stirring solution of 2-methylsulphonyl-4-(3-hydroxypropyl)-6-(3-tert-butyl-methyl-phenyl)-pyrimidine (4.6 g) in DMSO (120 ml) at room temperature was added sodium cyanide (647 mg). The resulting suspension was stirred at room temperature for 3 hours. After adding ethyl acetate (200 ml), the mixture was then washed with water (100 ml×3). Organic layer was dried over MgSO4 and concentrated in vacuo, the residue was columned on silica gel using Petrol and EtOAc as eluent to give 4-(3-tert-butyl-phenyl)-6-(3-hydroxy-propyl)-pyrimidine-2-carbonitrile (4.0 g) as an oil.

reactant | 2-methylsulphonyl-4-(3-hydroxypropyl)-6-(3-tert-butyl-methyl-phenyl)-pyrimidine | 4.6 g | CS(=O)(=O)C1=NC(=CC(=N1)CCCO)C1=C(C(=CC=C1)C(C)(C)C)C | C19H26N2O3S
reactant | sodium cyanide | 647 mg | [C-]#N.[Na+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 120 ml | CS(=O)C | C2H6OS
product | 4-(3-tert-butyl-phenyl)-6-(3-hydroxy-propyl)-pyrimidine-2-carbonitrile | 4.0 g | C(C)(C)(C)C=1C=C(C=CC1)C1=NC(=NC(=C1)CCCO)C#N | C18H21N3O
